US05143643
Then, 87 g of 85% KOH was dissolved in 87 ml of water, and 100 g of the above ethyl 4-propoxy-2-ethoxycarbonylvalerate was added at 15°-25° C. in 45 min. The mixture was stirred at 90°-96° C. for 2 hours, and then cooled. While keeping the temperature below 20° C., a solution of 138 g of conc. sulfuric acid in 194 ml of water was added dropwise in 30 min. The mixture was stirred at 90°-95° C. for 3 hours, cooled to room temperature and then subjected to extraction with ether. The ether layer was washed with saturated saline water and then ether was distilled off, followed by vacuum distillation to obtain 47 g of a fraction of 100°-130° C./5 mmHg. Benzene was added to the fraction, and the mixture was washed with 5% NaOH aqueous solution. The aqueous layer was acidified to pH 1 with 6N-hydrochloric acid and subjected to extraction with ether. The ether extract was washed with saturated saline water, and ether was distilled off to obtain 38 g of 4-propoxyvaleric acid.

reactant | KOH | 87 g | [OH-].[K+]
reactant | ethyl 4-propoxy-2-ethoxycarbonylvalerate | 100 g | C(CC)OC(CC(C(=O)OCC)C(=O)OCC)C | C13H24O5
reactant | sulfuric acid | 138 g | S(O)(O)(=O)=O | H2O4S
reactant | Benzene | C1=CC=CC=C1 | C6H6
solvent | water | 87 ml | O | H2O
solvent | water | 194 ml | O | H2O
product | 4-propoxyvaleric acid | 38 g | C(CC)OC(CCC(=O)O)C | C8H16O3
